US08247421B2
Step 1: 2-hydroxy-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
DIPEA (7.421 g, 10.00 mL, 57.42 mmol) was added to a suspension of 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (1 g, 1.918 mmol) in acetonitrile (20 mL). The reaction mixture was stirred for 1 hour then water (5 mL) was added. The mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was concentrated in vacuo to give the desired product (880 mg, quantitative yield).

reactant | DIPEA | 57.42 mmol, 10.00 mL, 7.421 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 1.918 mmol, 1 g | CS(=O)(=O)C1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C21H14F3N5O4S2
reactant | water | 5 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-hydroxy-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 880 mg, quantitative yield | OC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C20H12F3N5O3S
